US03973038
3'-Bromo-5'-carboxy-2,4'-dihydroxybenzanilide (1.0 g.) described in Example 4 was dissolved in n-propanol (50 ml.), and after adding conc. sulfuric acid (1 ml.) the solution was refluxed for 8 hours. After neutralizing with sodium hydroxide solution, the reaction solution was evaporated to dryness and the residue was washed with 5% sodium bicarbonate solution and recrystallized from aqueous acetone to give 3'-bromo-2,4'-dihydroxy-5'-n-propyloxycarbonylbenzanilide (0.61 g.). Yield: 54.5% Melting point 198°-200° C.

reactant | 3'-Bromo-5'-carboxy-2,4'-dihydroxybenzanilide | 1.0 g | BrC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)C(=O)O | C14H10BrNO5
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | n-propanol | 50 ml | C(CC)O | C3H8O
product | 3'-bromo-2,4'-dihydroxy-5'-n-propyloxycarbonylbenzanilide | 0.61 g, Yield: 54.5% | BrC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)C(=O)OCCC | C17H16BrNO5
